US04134980
1-(6,7-Dimethoxy-4-(3H)-quinazolinone-3-yl)-3-chloro-propane was prepared analogous to Example 1 (a) by reaction of 6,7-dimethoxy-4(3H)-quinazolinone with 1-bromo-3-chloro-propane in dimethyl-formamide. Rf -value (chloroform/methanol = 19/1) : 0.75.

reactant | 6,7-dimethoxy-4(3H)-quinazolinone | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 1-(6,7-Dimethoxy-4-(3H)-quinazolinone-3-yl)-3-chloro-propane | COC=1C=C2C(N(C=NC2=CC1OC)CCCCl)=O | C13H15ClN2O3
